US05607956
1-Azido-1-(3-furyl)-1-(4-methyl-5-oxazolyl)ethane
1-(3-Furyl)-1-(4-methyl-5-oxazolyl)ethanol (1 g) was suspended in benzene (4 ml). Trimethylsilylazide (822 μl) was added followed by borontrifluoride diethyletherate (770 μl). The mixture was stirred overnight at room temperature, then poured into water and extracted to give the title compound.

reactant | 1-(3-Furyl)-1-(4-methyl-5-oxazolyl)ethanol | 1 g | O1C=C(C=C1)C(C)(O)C1=C(N=CO1)C | C10H11NO3
reactant | Trimethylsilylazide | 822 μl | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | borontrifluoride | B(F)(F)F | BF3
reactant | water | O | H2O
solvent | benzene | 4 ml | C1=CC=CC=C1 | C6H6
product | 1-Azido-1-(3-furyl)-1-(4-methyl-5-oxazolyl)ethane | N(=[N+]=[N-])C(C)(C1=C(N=CO1)C)C1=COC=C1 | C10H10N4O2
